US07902181B2
d) (S)-N-((S)-1-Cyano-2-(4-(3-(2-methoxyethyl)-2-oxo-2,3-dihydrobenzo[d]oxazol-5-yl)phenyl)ethyl)piperidine-2-carboxamide
A solution of (S)-tert-butyl 2-((S)-1-cyano-2-(4-(3-(2-methoxyethyl)-2-oxo-2,3-dihydrobenzo[d]oxazol-5-yl)phenyl)ethylcarbamoyl)piperidine-1-carboxylate (38 mg) in formic acid (1 mL) was stirred at 50° C. for 10 min. The solvent was removed in vacuo and the residue was purified by flash silica chromatography eluting with 1:24 2M ammonia in methanol/DCM to give, after trituration with diethyl ether, the title compound (27 mg) as a pale yellow solid.

reactant | (S)-tert-butyl 2-((S)-1-cyano-2-(4-(3-(2-methoxyethyl)-2-oxo-2,3-dihydrobenzo[d]oxazol-5-yl)phenyl)ethylcarbamoyl)piperidine-1-carboxylate | 38 mg | C(#N)[C@H](CC1=CC=C(C=C1)C=1C=CC2=C(N(C(O2)=O)CCOC)C1)NC(=O)[C@H]1N(CCCC1)C(=O)OC(C)(C)C | C30H36N4O6
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | formic acid | 1 mL | C(=O)O | CH2O2
product | (S)-N-((S)-1-Cyano-2-(4-(3-(2-methoxyethyl)-2-oxo-2,3-dihydrobenzo[d]oxazol-5-yl)phenyl)ethyl)piperidine-2-carboxamide | 27 mg | C(#N)[C@H](CC1=CC=C(C=C1)C=1C=CC2=C(N(C(O2)=O)CCOC)C1)NC(=O)[C@H]1NCCCC1 | C25H28N4O4
